US07517873B2
To a mixture of 0.94 g (0.00352 mole) of (rac)-2-chloro-9-cyclobutyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-52), 0.33 mL (0.00529 mole) of iodomethane and 15 mL of N,N-dimethylformamide at 0 degrees, was added 0.21 g (0.00529 mole) of 60% oil dispersion of sodium hydride. The mixture was stirred at 0 degrees for 2 hours and then partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate. The combined organic phases were washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with hexanes-ethyl acetate (100:0-60:40) to give 0.88 g of (rac)-2-chloro-9-cyclobutyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-52) as white powder. HRMS (ES+) m/z Calcd for C13H17CLN4O2+H [(M+H)+]: 281.1164. Found: 281.1163.

reactant | (rac)-2-chloro-9-cyclobutyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00352 mole, 0.94 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)C2CCC2)N1 | C12H15ClN4O
reactant | iodomethane | 0.00529 mole, 0.33 mL | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (rac)-2-chloro-9-cyclobutyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.88 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)C2CCC2)N1 | C13H17ClN4O
